US07538112B2
Step 6: Ethyl (4S)-2-ethyl-8-methoxy-4-methyl-1-oxo-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazin-7-carboxylate
A mixture of ethyl (4S)-2-ethyl-8-hydroxy-4-methyl-1-oxo-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazin-7-carboxylate (6.6 g, 24.8 mmol), anhydrous potassium carbonate (13.7 g, 99.1 mmol, 325 mesh), and iodomethane (4.2 g, 29.7 mmol) in anhydrous DMF (123 mL) was stirred at room temperature overnight. The mixture was filtered and concentrated under vacuum. The residue was partitioned between chloroform and dilute hydrochloric acid. The organic extract was washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum. The residue was subjected to column chromatography on silica gel eluting with a gradient of 0-3% methanol in chloroform. Collection and concentration of appropriate fractions provided the title compound. Residual methanol was removed by concentrating from its solution in toluene under vacuum.

reactant | ethyl (4S)-2-ethyl-8-hydroxy-4-methyl-1-oxo-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazin-7-carboxylate | 24.8 mmol, 6.6 g | C(C)N1C(C=2N([C@H](C1)C)C=C(C2O)C(=O)OCC)=O | C13H18N2O4
reactant | potassium carbonate | 99.1 mmol, 13.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 29.7 mmol, 4.2 g | IC | CH3I
solvent | DMF | 123 mL | CN(C)C=O | C3H7NO
product | Ethyl (4S)-2-ethyl-8-methoxy-4-methyl-1-oxo-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazin-7-carboxylate | C(C)N1C(C=2N([C@H](C1)C)C=C(C2OC)C(=O)OCC)=O | C14H20N2O4
